US07354942B2
To a solution of methyl N-[3-[(2-amino-2-methyl-3-phenylpropoxy)methyl]-5-(hydroxymethyl)phenyl]-N-propylmethanesulfonamide (140 mg, 0.269 mmol) in dichloromethane (2.5 mL) were added carbon tetrabromide (116 mg, 0.350 mmol) and triphenylphosphine (85.0 mg, 0.323 mmol). After 15 h, the reaction mixture was concentrated in vacuo and purified by flash chromatography (silica, 0-35% EtOAc/hexanes) to provide N-[3-[(2-amino-2-methyl-3-phenylpropoxy)methyl]-5-(bromomethyl)phenyl]-N-propylmethanesulfonamide as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.34 (s, 1H), 7.31 (s, 1H),), 7.30-7.20 (m, 4H), 7.18-7.14 (m, 2H), 4.60-4.50 (m, 3H), 4.49 (s, 2H), 3.64 (t, J=7.2 Hz, 2H), 3.55 (A of AB, d, J=8.7 Hz, 1H), 3.45 (B of AB, d, J=8.7 Hz, 1H), 3.14 (A of AB, d, J=13.3 Hz, 1H), 2.94 (B of AB, d, J=13.3 Hz, 1H), 2.88 (s, 3H), 1.56-1.47 (m, 2H), 1.46 (s, 9H), 1.27 (s, 3H), 0.91 (t, J=7.4 Hz, 3H).

reactant | methyl N-[3-[(2-amino-2-methyl-3-phenylpropoxy)methyl]-5-(hydroxymethyl)phenyl]-N-propylmethanesulfonamide | 0.269 mmol, 140 mg | CCS(=O)(=O)N(CCC)C1=CC(=CC(=C1)CO)COCC(CC1=CC=CC=C1)(C)N | C23H34N2O4S
reactant | carbon tetrabromide | 0.350 mmol, 116 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.323 mmol, 85.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | N-[3-[(2-amino-2-methyl-3-phenylpropoxy)methyl]-5-(bromomethyl)phenyl]-N-propylmethanesulfonamide | NC(COCC=1C=C(C=C(C1)CBr)N(S(=O)(=O)C)CCC)(CC1=CC=CC=C1)C | C22H31BrN2O3S
